US06908913B2
(1S,5R,6S)-6-((1R)-1-Hydroxyethyl)-1-methyl-2-[7-(1-methylquinolinium-3-yl)carbonylimidazo[5,1-b]thiazol-2-yl]-1-carbapen-2-em-3-carboxylate (intramolecular salt) (Compound No. 24)
4-Nitrobenzyl (1S,5R,6S)-6-((1R)-1-hydroxyethyl)-1-methyl-2-[7-(quinolin-3-yl)carbonylimidazo[5,1-b]-thiazol-2-yl]-1-carbapen-2-em-3-carboxylate (93 mg) was dissolved in acetonitrile (2.25 ml)/chloroform (0.75 ml) to prepare a solution. Methyl iodide (0.063 ml) was added to the solution at room temperature, and the mixture was stirred at 40° C. for 3 days. The reaction solution was poured into diethyl ether to produce a powder which was filtered to give an N-quaternarized compound. The title compound (7.7 mg) was prepared in substantially the same manner as in step b) of Example 1, except that this compound was used as the starting compound.

reactant | 4-Nitrobenzyl (1S,5R,6S)-6-((1R)-1-hydroxyethyl)-1-methyl-2-[7-(quinolin-3-yl)carbonylimidazo[5,1-b]-thiazol-2-yl]-1-carbapen-2-em-3-carboxylate | 93 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)C2=CN3C(S2)=C(N=C3)C(=O)C=3C=NC2=CC=CC=C2C3)C(=O)OCC3=CC=C(C=C3)[N+](=O)[O-])C1=O | C32H25N5O7S
reactant | Methyl iodide | 0.063 ml | CI | CH3I
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | acetonitrile | 2.25 ml | C(C)#N | C2H3N
solvent | chloroform | 0.75 ml | C(Cl)(Cl)Cl | CHCl3
product | (1S,5R,6S)-6-((1R)-1-Hydroxyethyl)-1-methyl-2-[7-(1-methylquinolinium-3-yl)carbonylimidazo[5,1-b]thiazol-2-yl]-1-carbapen-2-em-3-carboxylate | 7.7 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)C2=CN3C(S2)=C(N=C3)C(=O)C=3C=[N+](C2=CC=CC=C2C3)C)C(=O)[O-])C1=O | C26H22N4O5S
